US04026896
297 Milligrams of 2-(4'-methylhydrocinnamoylamino)phenylacetic acid were dissolved in an alcohol and an equivalent amount of sodium hydroxide was added to the solution. The solution was warmed for 30 minutes and then concentrated under reduced pressure. Ether was added to the residual liquid to precipitate crystals which were then collected by filtration to obtain sodium 2-(4'-methylhydrocinnamoylamino)phenylacetate.

reactant | 2-(4'-methylhydrocinnamoylamino)phenylacetic acid | CC1=CC=C(CCC(=O)NC2=C(C=CC=C2)CC(=O)O)C=C1 | C18H19NO3
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium 2-(4'-methylhydrocinnamoylamino)phenylacetate | CC1=CC=C(CCC(=O)NC2=C(C=CC=C2)CC(=O)[O-])C=C1.[Na+] | InChI=1S/C18H19NO3.Na/c1-13-6-8-14(9-7-13)10-11-17(20)19-16-5-3-2-4-15(16)12-18(21)22;/h2-9H,10-12H2,1H3,(H,19,20)(H,21,22);/q;+1/p-1
